* source B1
R_R4         0 N04913  4k TC=0,0 
R_R5         0 N04917  9k TC=0,0 
V_V1         N05329 0 12Vdc
R_R3         N04913 N04917  6k TC=0,0 
R_R1         N04913 N05329  12k TC=0,0 
R_R2         N04917 N05329  18k TC=0,0 
